2159-05-11 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**5-10**]
   - Peritoneal fluid growing GNR: hemophilus
   - coag negative staph from [**5-8**]; prob. contamination redraw cx tomorrow
   - received 25mg albumin, low urine output resolved
   - receiving dilaudid PCA with adequate pain control
   - EKG showed no evidence of prolonged [**Name (NI) 818**]
   - pt states that his abdomen feels less distended, has not passed gas
   since surgery
   Allergies:
   Erythromycin Base
   Unknown; Diarrh
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-5-10**] 08:00 PM
   Vancomycin - [**2159-5-10**] 08:30 PM
   Metronidazole - [**2159-5-11**] 01:11 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-5-10**] 08:09 AM
   Hydromorphone (Dilaudid) - [**2159-5-10**] 01:05 PM
   Heparin Sodium - [**2159-5-10**] 06:31 PM
   Pantoprazole (Protonix) - [**2159-5-11**] 12:00 AM
   Metoprolol - [**2159-5-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-11**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 108 (101 - 126) bpm
   BP: 140/75(90) {116/60(75) - 148/80(98)} mmHg
   RR: 17 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109 kg (admission): 109 kg
   Height: 74 Inch
    CVP: 23 (10 - 23)mmHg
   Total In:
                                                                  7,360 mL
                                                                  1,359 mL
   PO:
   TF:
   IVF:
                                                                  6,405 mL
                                                                    894 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,725 mL
                                                                    535 mL
   Urine:
                                                                  1,435 mL
                                                                    495 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
                                                                     65 mL
                                                                     40 mL
   Balance:
                                                                  5,635 mL
                                                                    828 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: Lying comfortably in bed, NAD
   HEENT: EOMI, PERRLA, no lymphadenopathy
   CV: tachycardic, No MRG
   Pulm: crackles in R bases, decreased BS in L bases
   Peripheral Vascular: strong radial and DP pulses
   Skin:  no rashes or lesions, abdominal dressing intact with no evidence
   of drainage or pus
   Neurologic: alert and oriented x2
   Tubes/drains: abd drains with serosanguinous fluid
   Labs / Radiology
   994 K/uL
   7.9 g/dL
   142 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.6 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   25.8 %
   20.7 K/uL
        [image002.jpg]
                             [**2159-5-10**]  03:41 AM
                             [**2159-5-11**]  04:04 AM
   WBC
   21.9
   20.7
   Hct
   31.6
   25.8
   Plt
   1058
   994
   Cr
   0.7
   0.6
   Glucose
   135
   142
   Other labs: PT / PTT / INR:15.8/150.0/1.4, ALT / AST:21/32, Alk Phos /
   T Bili:52/0.7, Amylase / Lipase:65/110, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:357 mg/dL,
   Albumin:2.2 g/dL, LDH:357 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:1.9
   mg/dL
   Cx: Blood x1 [**5-8**]: coag negative staph
   [**5-9**] peritoneal fluid: HAEMOPHILUS, [**Female First Name (un) 474**]
   [**5-9**] intraabd abcess: gram - rods
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 TACHYCARDIA, OTHER
 BACTEREMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
 LEUKOCYTOSIS
   39yo gentleman with h/o recurrent pancreatitis who presented with
   ruptured spleen and underwent splenectomy who then returned to the OR
   for repair of an enteric leak, now transferred to the ICU in the
   setting of respiratory distress and massive pleural effusion.
   # Tachypnea and Pleural effusion: Pt sating well on 5 L nasal canula.
   CT yesterday showed significant L sided plural effusion.
   This effusion appears to have been present since before the surgery and
   the patient is not in respiratory distress.  Plan to hold on tap for
   now, however will re-consider if patients respiratory status
   deteriorates or he shows worsening signs of infecion.
   -continue O2 by nasal cannula
   -monitor ABGs
   - taper narcotics
   #Anemia : no evidence of bleed as patient has not had any bloody BMs or
   emesis.  Pt also states that his abdomen is less distended and
   clinically he does not have any evidence of bleeding from his surgical
   site or into his abdomen.  While this changes is most likely dilution
   in the context of recent fluid resusitation, we remain concerned for GI
   bleed or bleed into the abdomen from his surgical site.  Normal
   haptoglobin and unconjugated bilirubin suggest that it is not
   hemolytic, and marrow is responding appropriately with increased retic
   ct.
   -closely follow hematocrit
   -type and screen 3 units
   # coag negative staph : pt with one cx coag negative staph.  Will
   continue to cx until negative.
   -serial cxs
   -replace lines if bacteremia persists
   -continue vancomycin
   # s/p repair of enteric leak : pt now with GNR isolated in peritoneal
   fluid and abcess growing haemophilus.
   - continue NG tube to intermittent suction
   - continue cipro/flagyl
   - appreciate surgery input
   # Sinus Tachycardia:Likely multifactorial in setting of pain, PE,
   tachypnea/respiratory distress, and infection.  Persisting despite
   fluid resusitation, however expect continued improvement with treatment
   of infection.  Will hold of on BBlocker for now and attempt to tx
   underlying cause.
   # Pain:  Well controlled on dilaudid PCA.  Req
d one dose of IV
   dilaudid for break through pain
   - wean to orals today
   -IV dilaudid for breakthrough pain
   - bowel regimen while on narcotics once he is taking PO meds
   # Recent Splenectomy:
   - will need meningococcal and pneumococcal vaccines
   # Subsegmental PEs:
   - hold on heparin gtt during acute post-op period
   - discuss with surgery re: timing of restarting heparin gtt
   # Leukocytosis:
   Likely from enteric leak, recent surgery, and GPCs in blood.
   - f/u culture data
   - address sources of infection as discussed above
   # Elevated platelets: Trending down, likely acute inflammatory
   response.
   -continue to follow.
   # Anemia, Hct stable at 31:
   Note that patient's haptoglobin was less than assay on admission labs
   [**5-1**].
   - send hemolysis work-up
   - active type and screen
   # Delirium:
   Patient has self-extubated earlier during his hospital course.  Per
   surgery, his NG tube needs to continue to suction for decompression of
   his bowel.
   - appreciate psych recs
   - frequent reorientation
   - haldol PRN
   - EKG to monitor [**Month/Year (2) 818**]
   - restraints to avoid pulling at tubes/lines
   # Recurrent pancreatitis:
   Unclear cause, although would consider cystic fibrosis given family
   history.
   - recheck amylase, lipase and monitor clinical exam
   # FEN:  strict NPO including for meds; LR continuous at 125 with
   boluses PRN; note that pt has feeding J tube, but unclear indication at
   present
   # PPx:  subQ heparin; continue IV PPI started on floor
   # Access:  20g PIV, left IJ (will need to be re-sited)
   # Comm:  with mom [**Name (NI) **] [**Name (NI) 7288**] [**Telephone/Fax (1) 7290**]
   # Code:  confirmed FULL
   # Dispo:  to surgical floor once stable
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2159-5-10**] 06:31 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-5-10**] 12:43 AM
   20 Gauge - [**2159-5-10**] 12:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-05-11 11:39:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pain control improved today.
   Overall, states to be much improved.
   Denies dyspnea -  states breathing much easier.
   Using incentive spirometer.
   Up in chair.
   Heparin resumed yesterday.
   TPN resumed.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Erythromycin Base
   Unknown; Diarrh
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-5-10**] 08:00 PM
   Metronidazole - [**2159-5-11**] 01:11 AM
   Vancomycin - [**2159-5-11**] 08:07 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2159-5-10**] 01:05 PM
   Heparin Sodium - [**2159-5-10**] 06:31 PM
   Pantoprazole (Protonix) - [**2159-5-11**] 12:00 AM
   Metoprolol - [**2159-5-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-17**] Mild
   Pain location: Abd surgical incision
   Flowsheet Data as of  [**2159-5-11**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 115 (101 - 125) bpm
   BP: 137/72(88) {120/60(75) - 148/85(98)} mmHg
   RR: 24 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109 kg (admission): 109 kg
   Height: 74 Inch
   CVP: 8 (7 - 23)mmHg
   Total In:
                                                                  7,360 mL
                                                                  2,868 mL
   PO:
   TF:
   IVF:
                                                                  6,405 mL
                                                                  1,920 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,725 mL
                                                                    985 mL
   Urine:
                                                                  1,435 mL
                                                                    945 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
                                                                     65 mL
                                                                     40 mL
   Balance:
                                                                  5,635 mL
                                                                  1,883 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Firm, but much less tender;
   Midline surgical incision with staples, and 2 JP drains from left
   quadrants.
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   994 K/uL
   142 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.6 mEq/L
   12 mg/dL
   103 mEq/L
   136 mEq/L
   26.5 %
   20.7 K/uL
        [image002.jpg]
                             [**2159-5-10**]  03:41 AM
                             [**2159-5-11**]  04:04 AM
                             [**2159-5-11**]  07:14 AM
   WBC
   21.9
   20.7
   Hct
   31.6
   25.8
   26.5
   Plt
   1058
   994
   Cr
   0.7
   0.6
   Glucose
   135
   142
   Other labs: PT / PTT / INR:15.8/55.6/1.4, ALT / AST:21/32, Alk Phos / T
   Bili:52/0.7, Amylase / Lipase:65/110, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:357 mg/dL,
   Albumin:2.2 g/dL, LDH:357 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   39 yomh/o recurrent pancreatitis, recent surgery for splenectomy,
   enteric leak now with post-operative respiratory distress.
   RESPIRATORY DISTRESS
 Much improved.  Multifactorial.  Suspect
   contribution of bacteremia and sepsis, acidosis, left pleural effusion,
   left atalectasis, pulmonary emboli (off anticoagulation), and abdominal
   pain.  Plan treat sepsis, antibiotics, iv fliuds, optimize pain
   management, maintain upright position.  Consider left thoracentesis if
   expands.
   TACHYCARDIA
 likley reflects respiratory distress, pain, hypovolemia,
   possible pulmonary embolism.  Monitor HR, check EKG.  Replete iv fluid,
   optimize pain, treat sepsis/bacteremia.
   BACTEREMIA
 GPC, possible line related, but concern for enteric
   infection.  Remove central lines if possible (use peripheral if
   feasible).  Empirical antimicrobials, including Vanco/Cipro/Flagyl.
   PULMONARY EMBOLI
 left, subsegmental, multiple.  Resumed
   anticoagulation as per Surgery --> monitor PTT 60-80
   PLEURAL EFFUSION
 suspect sympathetic and related to abdominal
   surgeries.
   s/p ENTERIC LEAK --  NGT with intermittent suction, antibiotics, await
   culture results.
   PAIN MANAGEMENT
 post-op.  PCA pump, optimize dosing.
    s/p SPLENECTOMY -- will need meningococcal and pneumococcal vaccines
   FLIUD
 desire net volume expension.
   THROMBOCYTOSIS
 perhaps reactive.  Monitor.
   DELERIUM
 resolved.
   NUTRITIONAL SUPPORT -- NPO.  Continue TPN.
   RECURRENT PANCREATITS -- Unclear cause, but consider cystic fibrosis
   given family history.  Recheck amylase, lipase and monitor clinical
   exam.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2159-5-10**] 06:31 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-5-10**] 12:43 AM
   20 Gauge - [**2159-5-10**] 12:44 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2159-05-13 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2159-5-12**] 09:12 PM
   Blood culture x2 and for fungal
 FEVER - 101.9
F - [**2159-5-12**] 06:25 PM
   No acute events overnight
pt mental state fluctuates in and out of
   delerium
   Started on cefepime and fluconazole, continued vanc and cipro
   Allergies:
   Erythromycin Base
   Unknown; Diarrh
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2159-5-11**] 10:30 AM
   Vancomycin - [**2159-5-12**] 10:06 PM
   Ciprofloxacin - [**2159-5-12**] 10:06 PM
   Cefipime - [**2159-5-12**] 10:50 PM
   Fluconazole - [**2159-5-12**] 11:00 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2159-5-13**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-13**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.4
C (101.2
   HR: 115 (99 - 121) bpm
   BP: 139/77(87) {131/66(82) - 149/85(99)} mmHg
   RR: 26 (23 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.6 kg (admission): 113.6 kg
   Height: 74 Inch
             Total In:
                                                                  1,442 mL
                                                                  1,475 mL
   PO:
             TF:
             67 mL
   IVF:
                                                                  1,442 mL
                                                                  1,407 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    560 mL
   Urine:
                                                                    300 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,142 mL
                                                                    915 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.53/31/61/26/3
   Physical Examination
   Concentrated urine in Foley.
   Lying in bed with eyes closed, minimally responsive to efforts to rouse
   him but able to follow simple commands.
   Pupils small and equal.  No scleral icterus.
   Face symmetric.  Mucous membranes dry.  Tongue midline.
   Neck supple, no adenopathy.
   S1, S2, regular tachycardia.
   Tachypneic with shallow breaths.  Has somewhat decreased air movement
   at left base.
   Abd:  Surgical dressings in place; JP drains with small amount of
   serosanguinous fluid.  +BS.  Soft; pt does not react with palpation.
   Neuro:   Pt mumbles incoherently when asked questions.  Hand grip
   intact b/l.  Able to move legs b/l.
   Ext:  warm, well perfused.  DP +1 b/l.  Pneumoboots in place.
   Labs / Radiology
   1173 K/uL
   7.5 g/dL
   105 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   10 mg/dL
   104 mEq/L
   136 mEq/L
   23.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2159-5-10**]  03:41 AM
                             [**2159-5-11**]  04:04 AM
                             [**2159-5-11**]  07:14 AM
                             [**2159-5-12**]  03:00 PM
                             [**2159-5-12**]  08:20 PM
                             [**2159-5-12**]  09:00 PM
                             [**2159-5-13**]  02:56 AM
   WBC
   21.9
   20.7
   21.8
   21.6
   19.4
   Hct
   31.6
   25.8
   26.5
   23.7
   23.7
   Plt
   1[**Telephone/Fax (1) 7366**]
   1109
   1173
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   27
   Glucose
   135
   142
   115
   105
   Other labs: PT / PTT / INR:15.6/70.7/1.4, ALT / AST:18/25, Alk Phos / T
   Bili:101/0.8, Amylase / Lipase:113/228, Differential-Neuts:91.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:357 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:391 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 DELIRIUM / CONFUSION
 PLEURAL EFFUSION, ACUTE
 TACHYCARDIA, OTHER
 BACTEREMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
 LEUKOCYTOSIS
   39yo gentleman with h/o recurrent pancreatitis s/p splenectomy for
   ruptured spleen who returns to the [**Hospital Unit Name 4**] with fevers and tachycardia in
   the setting of recent enteric leak repair.
   # Fevers and Leukocytosis:
   Patient now has [**Female First Name (un) 474**] and non-influenza Hemophilus growing in the
   cultures from his recent abdominal surgery.  He also had coag negative
   staph growing from his PICC line from [**5-8**].  The line has since been
   removed.  Other possible sources for infection include empyema
   (although thoracentesis on [**5-7**] did not show evidence of organisms),
   pancreatitis (lipase slightly increasing), or pneumonia.
   - start fluconazole for [**Female First Name (un) 474**] coverage
   - [**Female First Name (un) 474**] should grow from blood cultures, but will send fungal blood
   cultures as well
   - start cefepime for broad gram negative and anaerobic coverage (has
   penicillin allergy)
   - continue vancomycin and cipro for now; if he does well clinically,
   would favor stopping cipro and then treating with short course of vanc
   for 5 days after PICC line was pulled ([**Date range (1) 7353**])
   - f/u sensitivities and [**5-9**] cultures
   - will discuss possibility of thoracentesis with surgery if he
   continues to be febrile despite appropriate antibiotics
   # Delirium:
   This may be secondary to his pain medications or could be a
   manifestation of severe infection +/- sepsis.  If he is bacteremic or
   fungemic, would also consider the possibility of septic emboli, but not
   at threshold to image head without supportive culture data.
   - consider pain consult in AM to help with pain management
   - per prior psych recs, can use haldol if patient becomes agitated
   - if haldol is given, would check QTc
   - no hypercarbia on ABG
   # Anemia, Hct 30-31 on admission, currently 23.7:
   Note that patient has been on a heparin gtt, although he was only
   supratherapeutic on one measure post-op on the 26th.
   - follow serial Hcts
   - active type and screen
   - if pt's Hct is dropping, would have low threshold to obtain CT
   abdomen to evaluate for hematoma
   # Tachypnea with respiratory alkalosis:
   Likely related to pain, although he may also have some anxiety from
   being disoriented.
   - continue dilaudid for now but consider pain consult as above
   # Sinus Tachycardia:
   Likely multifactorial in setting of pain, PE, tachypnea/respiratory
   distress, and infection.
   - would avoid beta blocking sinus tachycardia and rather would treat
   underlying causes
   # Recent Splenectomy:
   - will need meningococcal and pneumococcal vaccines
   - note that pt is infected with encapsulated organism
   # Subsegmental PEs:
   - continue heparin gtt
   # Elevated platelets:
   [**Month (only) 8**] be inflammatory reaction, but elevation of platelets is extremely
   pronounced.
   - monitor
   # Recurrent pancreatitis:
   Unclear cause, although would consider cystic fibrosis given family
   history.
   - recheck amylase, lipase and monitor clinical exam
   # FEN:  strict NPO including for meds; LR boluses PRN; restart TPN once
   he has central access
   # PPx:  heparin gtt; continue IV PPI started by surgical team
   # Access:  PIV x 2; per surgery, will need CVL
   # Comm:  with mom [**Name (NI) **] [**Name (NI) 7288**] [**Telephone/Fax (1) 7290**]
   # Code:  confirmed FULL
   # Dispo:  to surgical floor once stable
   ICU Care
   Nutrition:
   Replete ([**1-17**]) - [**2159-5-13**] 12:09 AM 10 mL/hour
   Glycemic Control:   insulin SS
   Lines:
   20 Gauge - [**2159-5-12**] 09:07 PM
   Prophylaxis:
   DVT:  on heparin gtt
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-05-13 10:55:00 Physician Attending Progress Note
Chief Complaint: Tachycardia, delerium, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt. returned to MICU service last PM for management of tachycardia,
   recurrent delerium and respiratory distress.
   Hallucinations last PM, resolved this AM.
   Disinclined to take deep breaths due to LLQ pain.
   Receiving Dilaudid iv boluses (off PCA pump).
   Tolerating trophic TF.
   Clots noted on PICC line at the time of d/c line.
   Heparin drip on hold pending possible procedures.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Erythromycin Base
   Unknown; Diarrh
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2159-5-11**] 10:30 AM
   Fluconazole - [**2159-5-12**] 11:00 PM
   Ciprofloxacin - [**2159-5-13**] 07:43 AM
   Vancomycin - [**2159-5-13**] 08:30 AM
   Cefipime - [**2159-5-13**] 10:02 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2159-5-13**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-17**] Mild
   Flowsheet Data as of  [**2159-5-13**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.6
   HR: 99 (97 - 121) bpm
   BP: 133/79(92) {131/66(82) - 149/85(99)} mmHg
   RR: 24 (23 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.6 kg (admission): 113.6 kg
   Height: 74 Inch
             Total In:
                                                                  1,442 mL
                                                                  2,478 mL
   PO:
             TF:
             113 mL
   IVF:
                                                                  1,442 mL
                                                                  2,365 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                  1,030 mL
   Urine:
                                                                    300 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,142 mL
                                                                  1,448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.53/31/61/26/3
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: left base, No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3; appropriate, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   1173 K/uL
   105 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   10 mg/dL
   104 mEq/L
   136 mEq/L
   23.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2159-5-10**]  03:41 AM
                             [**2159-5-11**]  04:04 AM
                             [**2159-5-11**]  07:14 AM
                             [**2159-5-12**]  03:00 PM
                             [**2159-5-12**]  08:20 PM
                             [**2159-5-12**]  09:00 PM
                             [**2159-5-13**]  02:56 AM
   WBC
   21.9
   20.7
   21.8
   21.6
   19.4
   Hct
   31.6
   25.8
   26.5
   23.7
   23.7
   Plt
   1[**Telephone/Fax (1) 7366**]
   1109
   1173
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   27
   Glucose
   135
   142
   115
   105
   Other labs: PT / PTT / INR:15.6/70.7/1.4, ALT / AST:18/25, Alk Phos / T
   Bili:101/0.8, Amylase / Lipase:113/228, Differential-Neuts:91.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:357 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:391 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Microbiology: Peritoneal culture -- + [**Female First Name (un) 474**], haemophilous
   (non-influenza)
   Assessment and Plan
   39 yomh/o recurrent pancreatitis, recent surgery for splenectomy,
   enteric leak now with post-operative respiratory distress and delerium
   (recurrent).
   RESPIRATORY DISTRESS
 Much improved.  Multifactorial.  Suspect
   contribution of bacteremia and sepsis, acidosis, left pleural effusion,
   left atalectasis, pulmonary emboli (off anticoagulation), and abdominal
   pain (splinting).  Plan treat sepsis, antibiotics, iv fliuds, optimize
   pain management, maintain upright position.  Consider left
   thoracentesis if expands.
   TACHYCARDIA
 likley reflects respiratory distress, pain, hypovolemia,
   possible pulmonary embolism.  Monitor HR, check EKG.  Replete iv fluid,
   optimize pain, treat sepsis/bacteremia.
   SEPSIS -- evidence for line-related infection and now suspect
   peritoneal source.  For Abd CT imaging to assess for collection.
   Continue Cipro, Cefopime, Vanco, Fluconozole.
   BACTEREMIA
 GPC, possible line related, but concern for enteric
   infection.  Remove central lines if possible (use peripheral if
   feasible).  Continue Vanco.
   PULMONARY EMBOLI
 left, subsegmental, multiple.  Continue
   anticoagulation  --> monitor PTT 60-80.
   PLEURAL EFFUSION
 suspect sympathetic and related to abdominal
   surgeries.  Doubt empyema, but consider diagnostic thoracentesis.
   Monitor.
   s/p ENTERIC LEAK --  NGT with intermittent suction, antibiotics, await
   culture results.  For Abd CT today.
   PAIN MANAGEMENT
 post-op.  s/p PCA pump --> need to optimize dosing
   and interval.
    s/p SPLENECTOMY -- will need meningococcal and pneumococcal vaccines
   FLUID
 desire net volume expension.
   THROMBOCYTOSIS
 perhaps reactive.  ? reactive.  [**Month (only) 8**] be contributing to
   clotting (pulmonary emboli, clot on PICC line) as value exceeds 1
   million.  Monitor.  Hematology consult.
   DELERIUM
 recurrent.  Possible related to medications and contribution
   of sepsis (toxic-metabolic).  Improved this AM.
   NUTRITIONAL SUPPORT -- NPO.  Trophic TF.  Resume TPN once central
   access established.
   RECURRENT PANCREATITS -- Unclear cause, but consider cystic fibrosis
   given family history.  Recheck amylase, lipase and monitor clinical
   exam.
   ICU Care
   Nutrition:
   Replete ([**1-17**]) - [**2159-5-13**] 12:09 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-5-12**] 09:07 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2159-05-14 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS, respiratory distress
   24 Hour Events:
 MULTI LUMEN - START [**2159-5-13**] 10:10 PM
   - CT abdomen/ thorax done: large sequestered fluid collection in
   abdomen, increasing pleural effusion in Left lung -- IR to drain
   tomorrow am
   - Right IJ placed for TPN to start after procedure tomorrow
   - 1st attempt to place3 left IJ but clotted
   - d/c tube feeds tonight at 12am for procedure tomorrow, will advance
   post procedure
   - d/c heparin drip at 1800units/hr at 6 am tomorrow for procedure, will
   restart after drains placed
   - heme consult, said to delay any thrombotic w/u until after rx. course
   with heparin
   Allergies:
   Erythromycin Base
   Unknown; Diarrh
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2159-5-11**] 10:30 AM
   Vancomycin - [**2159-5-13**] 08:36 PM
   Ciprofloxacin - [**2159-5-13**] 08:38 PM
   Cefipime - [**2159-5-13**] 10:20 PM
   Fluconazole - [**2159-5-13**] 11:30 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Metoprolol - [**2159-5-13**] 12:08 PM
   Hydromorphone (Dilaudid) - [**2159-5-14**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 92 (89 - 109) bpm
   BP: 141/71(88) {127/63(83) - 149/90(101)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.6 kg (admission): 113.6 kg
   Height: 74 Inch
             Total In:
                                                                  4,403 mL
                                                                    997 mL
   PO:
             TF:
                                                                    194 mL
   IVF:
                                                                  3,558 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                  3,960 mL
                                                                  1,780 mL
   Urine:
                                                                  3,260 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    443 mL
                                                                   -783 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   PHYSICAL EXAM
   GENERAL: Lying comfortably in bed, NAD,
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear.  Neck Supple.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].  JVP not assessed
   LUNGS: CTAB anteriorly, poor air movement
   ABDOMEN: decreased BS Soft, NT, ND.  Well healed surgical incision,
   drains with serous fluid.
   EXTREMITIES: 2+ dorsalis pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3.
   Labs / Radiology
   1120 K/uL
   7.5 g/dL
   96 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   7 mg/dL
   102 mEq/L
   133 mEq/L
   25.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2159-5-10**]  03:41 AM
                             [**2159-5-11**]  04:04 AM
                             [**2159-5-11**]  07:14 AM
                             [**2159-5-12**]  03:00 PM
                             [**2159-5-12**]  08:20 PM
                             [**2159-5-12**]  09:00 PM
                             [**2159-5-13**]  02:56 AM
                             [**2159-5-14**]  01:25 AM
   WBC
   21.9
   20.7
   21.8
   21.6
   19.4
   15.4
   Hct
   31.6
   25.8
   26.5
   23.7
   23.7
   25.0
   Plt
   1[**Telephone/Fax (1) 7366**]
   1109
   1173
   1120
   Cr
   0.7
   0.6
   0.5
   0.6
   0.6
   TCO2
   27
   Glucose
   135
   142
   115
   105
   96
   Other labs: PT / PTT / INR:15.3/32.0/1.3, ALT / AST:16/22, Alk Phos / T
   Bili:100/0.7, Amylase / Lipase:111/194, Differential-Neuts:70.0 %,
   Band:0.0 %, Lymph:18.0 %, Mono:11.0 %, Eos:1.0 %, Fibrinogen:357 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:359 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 DELIRIUM / CONFUSION
 PLEURAL EFFUSION, ACUTE
 TACHYCARDIA, OTHER
 BACTEREMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PULMONARY EMBOLISM (PE), ACUTE
 LEUKOCYTOSIS
   39yo gentleman with h/o recurrent pancreatitis s/p splenectomy for
   ruptured spleen who returns to the [**Hospital Unit Name 4**] with fevers and tachycardia in
   the setting of recent enteric leak repair.
   # Fevers and Leukocytosis:
   Patient now has [**Female First Name (un) 474**] and non-influenza Hemophilus growing in the
   cultures from his recent abdominal surgery.  He also had coag negative
   staph growing from his PICC line from [**5-8**].  The line has since been
   removed.  Other possible sources for infection include empyema
   (although thoracentesis on [**5-7**] did not show evidence of organisms),
   pancreatitis (lipase slightly increasing), or pneumonia.
   - start fluconazole for [**Female First Name (un) 474**] coverage
   - start cefepime for broad gram negative and anaerobic coverage (has
   penicillin allergy)
   - continue vancomycin and cipro
   - f/u sensitivities , bcx, fungal cx, c. diff
   - will discuss possibility of thoracentesis with surgery if he
   continues to be febrile despite appropriate antibiotics
   - CT abdomen and pelvis with possible IR drainage today.
   # Delirium:
   This may be secondary to his pain medications or could be a
   manifestation of severe infection +/- sepsis.  If he is bacteremic or
   fungemic, would also consider the possibility of septic emboli, but not
   at threshold to image head without supportive culture data.
   - pain not well controlled, increase dilaudid to .25 mg IV q 2 hours.
   - haldol prn, per psych recs in chart
confirm QTc prior to dosing
   - ABG without hypercarbia
   # Anemia, Hct 30-31 on admission, currently 23.7, concerning for
   possible bleed considering heparin gtt
 one supratherapeutic measure
   on [**5-11**].
   - follow serial Hcts
   - active type and screen
   - If Hct drops less than current 23.7, contact surgery immediately for
   discussion re: transfusion.
   - CT abdomen/pelvis to evaluate for bleed.
   # Tachypnea with respiratory alkalosis:
   Likely related to pain, although he may also have some anxiety from
   being disoriented.
   - improve control, consider pain cosult.
   # Sinus Tachycardia:
   Likely multifactorial in setting of pain, PE, tachypnea/respiratory
   distress, and infection.
   - would avoid beta blocking sinus tachycardia and rather would treat
   underlying causes
   # Recent Splenectomy:
   - will need meningococcal and pneumococcal vaccines
   - note that pt is infected with encapsulated organism
   # Subsegmental PEs:
   - stop heparin gtt per surgery today for CT Abdomen/Pelvis and possible
   IR intervention
   # Elevated platelets:
   [**Month (only) 8**] be inflammatory reaction, but elevation of platelets is extremely
   pronounced.
   - consult heme
   - monitor
   # Recurrent pancreatitis:
   Unclear cause, although would consider cystic fibrosis given family
   history.
   - recheck amylase, lipase and monitor clinical exam
   # Comm:  with mom [**Name (NI) **] [**Name (NI) 7288**] [**Telephone/Fax (1) 7290**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2159-5-14**] 01:30 AM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-5-12**] 09:07 PM
   Multi Lumen - [**2159-5-13**] 10:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-05-14 11:56:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Much improved overnight.  No resp. distress.
   Transferred IR this AM for percutaneous drainage for left
   intraabdominal fluid collection --> removal of >200 ml purulant tan
   colored material.
   Also left chest tube drain placed, with removal of 300 cc
   serosanguinous fluid.
   Tachycardia improved.
   Improved pain control overnight, receiving q2h dilaudid.
   Much increased pain upon return from IR.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Erythromycin Base
   Unknown; Diarrh
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2159-5-13**] 10:20 PM
   Fluconazole - [**2159-5-13**] 11:30 PM
   Vancomycin - [**2159-5-14**] 07:47 AM
   Ciprofloxacin - [**2159-5-14**] 08:42 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2159-5-13**] 12:08 PM
   Hydromorphone (Dilaudid) - [**2159-5-14**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-5-14**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 98 (89 - 109) bpm
   BP: 140/80(94) {127/63(83) - 149/90(101)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.6 kg (admission): 113.6 kg
   Height: 74 Inch
             Total In:
                                                                  4,403 mL
                                                                  2,199 mL
   PO:
             TF:
                                                                    194 mL
   IVF:
                                                                  3,558 mL
                                                                  1,342 mL
   Blood products:
   Total out:
                                                                  3,960 mL
                                                                  2,500 mL
   Urine:
                                                                  3,260 mL
                                                                  2,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    443 mL
                                                                   -301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: , No(t) Obese, Surgical scar in midline, appears
   intact
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   1120 K/uL
   96 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   7 mg/dL
   102 mEq/L
   133 mEq/L
   25.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2159-5-10**]  03:41 AM
                             [**2159-5-11**]  04:04 AM
                             [**2159-5-11**]  07:14 AM
                             [**2159-5-12**]  03:00 PM
                             [**2159-5-12**]  08:20 PM
                             [**2159-5-12**]  09:00 PM
                             [**2159-5-13**]  02:56 AM
                             [**2159-5-14**]  01:25 AM
   WBC
   21.9
   20.7
   21.8
   21.6
   19.4
   15.4
   Hct
   31.6
   25.8
   26.5
   23.7
   23.7
   25.0
   Plt
   1[**Telephone/Fax (1) 7366**]
   1109
   1173
   1120
   Cr
   0.7
   0.6
   0.5
   0.6
   0.6
   TCO2
   27
   Glucose
   135
   142
   115
   105
   96
   Other labs: PT / PTT / INR:15.3/32.0/1.3, ALT / AST:16/22, Alk Phos / T
   Bili:100/0.7, Amylase / Lipase:111/194, Differential-Neuts:70.0 %,
   Band:0.0 %, Lymph:18.0 %, Mono:11.0 %, Eos:1.0 %, Fibrinogen:357 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:359 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   39 yomh/o recurrent pancreatitis, recent surgery for splenectomy,
   enteric leak now with post-operative respiratory distress and delerium
   (recurrent).
   RESPIRATORY DISTRESS
 Much improved.  Multifactorial.  Suspect
   contribution of bacteremia and sepsis, acidosis, left pleural effusion,
   left atalectasis, pulmonary emboli (off anticoagulation), and abdominal
   pain (splinting).  Plan treat sepsis, antibiotics, iv fliuds, optimize
   pain management, maintain upright position.  Consider left
   thoracentesis if expands.
   TACHYCARDIA
 likley reflects respiratory distress, pain, hypovolemia,
   possible pulmonary embolism.  Monitor HR, check EKG.  Replete iv fluid,
   optimize pain, treat sepsis/bacteremia.
   SEPSIS -- evidence for line-related infection and now suspect
   peritoneal source.  For Abd CT imaging to assess for collection.
   Continue Cipro, Cefopime, Vanco, Fluconozole.
   BACTEREMIA
 GPC, possible line related, but concern for enteric
   infection.  Remove central lines if possible (use peripheral if
   feasible).  Continue Vanco.
   PULMONARY EMBOLI
 left, subsegmental, multiple.  Continue
   anticoagulation  --> monitor PTT 60-80.
   PLEURAL EFFUSION
 suspect sympathetic and related to abdominal
   surgeries.  Doubt empyema, but consider diagnostic thoracentesis.
   Monitor.
   s/p ENTERIC LEAK --  NGT with intermittent suction, antibiotics, await
   culture results.  For Abd CT today.
   PAIN MANAGEMENT
 post-op.  s/p PCA pump --> need to optimize dosing
   and interval.
    s/p SPLENECTOMY -- will need meningococcal and pneumococcal vaccines
   FLUID
 desire net volume expension.
   THROMBOCYTOSIS
 perhaps reactive.  ? reactive.  [**Month (only) 8**] be contributing to
   clotting (pulmonary emboli, clot on PICC line) as value exceeds 1
   million.  Monitor.  Hematology consult.
   DELERIUM
 recurrent.  Possible related to medications and contribution
   of sepsis (toxic-metabolic).  Improved this AM.
   NUTRITIONAL SUPPORT -- NPO.  Trophic TF.  Resume TPN once central
   access established.
   RECURRENT PANCREATITS -- Unclear cause, but consider cystic fibrosis
   given family history.  Recheck amylase, lipase and monitor clinical
   exam.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2159-5-14**] 01:30 AM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-5-13**] 10:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2159-05-15 11:59:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall continues to feel improved.
   Pain management improved now on dilaudid PCA pump.
   Allergies:
   Erythromycin Base
   Unknown; Diarrh
   Amoxicillin
   Rash;
   Last dose of Antibiotics:
   Fluconazole - [**2159-5-14**] 10:09 PM
   Vancomycin - [**2159-5-15**] 08:00 AM
   Ciprofloxacin - [**2159-5-15**] 09:21 AM
   Cefipime - [**2159-5-15**] 10:21 AM
   Infusions:
   Heparin Sodium - 2,050 units/hour
   Other ICU medications:
   Metoprolol - [**2159-5-15**] 12:21 AM
   Pantoprazole (Protonix) - [**2159-5-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-5-15**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 95 (82 - 104) bpm
   BP: 115/93(98) {115/68(85) - 150/93(104)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.6 kg (admission): 113.6 kg
   Height: 74 Inch
             Total In:
                                                                  4,798 mL
                                                                  2,166 mL
   PO:
             TF:
                                                                    166 mL
                                                                    287 mL
   IVF:
                                                                  2,800 mL
                                                                    901 mL
   Blood products:
   Total out:
                                                                  8,245 mL
                                                                  4,145 mL
   Urine:
                                                                  6,785 mL
                                                                  3,950 mL
   NG:
   Stool:
   Drains:
                                                                    480 mL
                                                                    115 mL
   Balance:
                                                                 -3,447 mL
                                                                 -1,979 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: , No(t) Obese, Midline surgical incision;
   percutaneous drains on left
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   1124 K/uL
   129 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.1 %
   13.9 K/uL
        [image002.jpg]
                             [**2159-5-10**]  03:41 AM
                             [**2159-5-11**]  04:04 AM
                             [**2159-5-11**]  07:14 AM
                             [**2159-5-12**]  03:00 PM
                             [**2159-5-12**]  08:20 PM
                             [**2159-5-12**]  09:00 PM
                             [**2159-5-13**]  02:56 AM
                             [**2159-5-14**]  01:25 AM
                             [**2159-5-14**]  05:45 PM
                             [**2159-5-15**]  04:53 AM
   WBC
   21.9
   20.7
   21.8
   21.6
   19.4
   15.4
   13.9
   Hct
   31.6
   25.8
   26.5
   23.7
   23.7
   25.0
   23.8
   25.1
   Plt
   1[**Telephone/Fax (1) 7366**]
   1109
   1173
   1120
   1124
   Cr
   0.7
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   27
   Glucose
   135
   142
   115
   105
   96
   129
   Other labs: PT / PTT / INR:14.9/40.6/1.3, ALT / AST:24/33, Alk Phos / T
   Bili:133/0.5, Amylase / Lipase:80/120, Differential-Neuts:70.0 %,
   Band:0.0 %, Lymph:18.0 %, Mono:11.0 %, Eos:1.0 %, Fibrinogen:357 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:359 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   39 yomh/o recurrent pancreatitis, recent surgery for splenectomy,
   enteric leak now with post-operative respiratory distress and delerium
   (recurrent).
   RESPIRATORY DISTRESS
 Much improved.  Multifactorial.  Suspect
   contribution of bacteremia and sepsis, acidosis, left pleural effusion,
   left atalectasis, pulmonary emboli (off anticoagulation), and abdominal
   pain (splinting).  Continue treat sepsis, antibiotics, iv fliuds,
   optimize pain management, maintain upright position.  Consider left
   thoracentesis if expands.
   TACHYCARDIA
 Improved.  Likley reflected respiratory distress, pain,
   hypovolemia, possible pulmonary embolism.  Monitor HR, check EKG.
   Replete iv fluid, optimize pain, treat sepsis/bacteremia.
   SEPSIS -- evidence for line-related infection and now suspect
   peritoneal source.  For Abd CT imaging to assess for collection.
   Continue Cipro, Cefopime, Vanco, Fluconozole.
   BACTEREMIA
 GPC, possible line related, but concern for enteric
   infection.  Remove central lines if possible (use peripheral if
   feasible).  Continue Vanco.
   PULMONARY EMBOLI
 left, subsegmental, multiple.  Continue
   anticoagulation  --> monitor PTT 60-80.
   PLEURAL EFFUSION
 suspect sympathetic and related to abdominal
   surgeries.  S/p drainage.   Chest tube not draining, and without
   respiratory variation on water seal --> would D/C.
   s/p ENTERIC LEAK --  NGT with intermittent suction, antibiotics, await
   culture results.  For Abd CT today.
   PAIN MANAGEMENT
 post-op.  Improved on Dilaudid PCA pump.
    s/p SPLENECTOMY -- will need meningococcal and pneumococcal vaccines
   FLUID
 Euvolemic.  Monitor I/O, maintain balance.
   THROMBOCYTOSIS
 perhaps reactive.  ? reactive.  [**Month (only) 8**] be contributing to
   clotting (pulmonary emboli, clot on PICC line) as value exceeds 1
   million.  Monitor.  Hematology consult.
   DELERIUM
 recurrent.  Possible related to medications and contribution
   of sepsis (toxic-metabolic).  Improved this AM.
   NUTRITIONAL SUPPORT -- NPO.  Trophic TF.  Resume TPN once central
   access established.
   RECURRENT PANCREATITS -- Unclear cause, but consider cystic fibrosis
   given family history.  Recheck amylase, lipase and monitor clinical
   exam.
   ICU Care
   Nutrition:
   Replete ([**1-17**]) - [**2159-5-14**] 12:48 PM 30 mL/hour
   TPN w/ Lipids - [**2159-5-14**] 06:31 PM 88 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-5-13**] 10:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes